US05110956
2-(1,3-Benzodioxol-5-yl)ethyl (pyridin-4-yl)methyl sulfide
3.30 g of 2-(1,3-benzodioxol-5-yl)ethanethiol was dissolved in 30 ml of ethanol. 1.65 g of sodium hydroxide and then 2.70 g of 4-picolyl chloride hydrochloride were added to the solution and the mixture was heated under reflux at 70° C. for 30 min. The solvent was distilled off and water was added to the residue. After extraction with ethyl acetate, 1N hydrochloric acid was added to the extract. The aqueous layer was acidified, taken up and washed with ethyl acetate. The pH of the aqueous layer was adjusted to 8 with potassium carbonate. After extraction with ethyl acetate, the extract was washed with a saturated aqueous common salt solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off and the residue was purified according to silica gel column chromatography (ethyl acetate/hexane=1:4) to obtain 2.69 g of the intended compound in the form of a colorless oil.

reactant | 2-(1,3-benzodioxol-5-yl)ethanethiol | 3.30 g | O1COC2=C1C=CC(=C2)CCS | C9H10O2S
reactant | sodium hydroxide | 1.65 g | [OH-].[Na+]
reactant | 4-picolyl chloride hydrochloride | 2.70 g | Cl.N1=CC=C(C=C1)CCl
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-(1,3-Benzodioxol-5-yl)ethyl (pyridin-4-yl)methyl sulfide | 2.69 g | N1=CC=C(C=C1)CSCCC1=CC2=C(OCO2)C=C1 | C15H15NO2S
